US07259266B2
Step 1. Preparation of diethyl 6-methyl-2-(trifluoromethyl)-2H-chromene-3,8-dicarboxylate
A mixture of ethyl 3-formyl-2-hydroxy-5-methylbenzoate (6.18 g, 29.69 mmole), K2CO3 (8.19 g, 59.38 mmole), triethylamine (1.99 g, 118.75 mmole), and ethyl 4,4,4-trifluorocrotonate (19.95 g, 118.75 mmole) in anhydrous DMSO (40.0 mL) was heated to 90° C. under a dry N2 atmosphere for 5 hrs. The mixture was then cooled and allowed to stir at room temperature for 15 hours. The reaction was poured into 1.2 N HCl (100 mL) and extracted with EtOAc (2×100 mL). The combined extracts were washed with brine (100 mL), dried over MgSO4, filtered and concentrated in vacuo to give a dark red oil which was subject to flash chromatography (silica gel) and eluted with 100% CH2Cl2 to give a light orange solid (4.5 g, 42%): 1H NMR (acetone-d6/400 MHz) 7.84 (s, 1H), 7.61 (s, 1H), 7.46 (s, 1H), 5.86 (q, 1H, J=7.0 Hz), 4.30 (m, 4H), 2.31 (s, 3H), 1.33 (m, 6H).

reactant | ethyl 3-formyl-2-hydroxy-5-methylbenzoate | 29.69 mmole, 6.18 g | C(=O)C=1C(=C(C(=O)OCC)C=C(C1)C)O | C11H12O4
reactant | K2CO3 | 59.38 mmole, 8.19 g | C(=O)([O-])[O-].[K+].[K+]
reactant | triethylamine | 118.75 mmole, 1.99 g | C(C)N(CC)CC | C6H15N
reactant | ethyl 4,4,4-trifluorocrotonate | 118.75 mmole, 19.95 g | FC(/C=C/C(=O)OCC)(F)F | C6H7F3O2
reactant | HCl | 1.2 N, 100 mL | Cl | ClH
solvent | DMSO | 40.0 mL | CS(=O)C | C2H6OS
product | diethyl 6-methyl-2-(trifluoromethyl)-2H-chromene-3,8-dicarboxylate | 4.5 g, 42% | CC=1C=C2C=C(C(OC2=C(C1)C(=O)OCC)C(F)(F)F)C(=O)OCC | C17H17F3O5
